US07455697B2
(3,5-Diaminophenyl)(2,4-dihydroxyphenyl)methanone
1 g (3.1 mmol) of (3,5-diaminophenyl)(2,4-dihydroxyphenyl)methanone dihydrochloride was dissolved in 30 mL of water and neutralized by addition of a saturated sodium hydrogen carbonate solution. This produced a yellowish precipitate which was suction-filtered off. The filter cake was washed with a small amount of cold water and dried at 40° C. under vacuum. This gave 0.6 g (78% of the theoretical) of a yellowish powder.

reactant | (3,5-diaminophenyl)(2,4-dihydroxyphenyl)methanone dihydrochloride | 3.1 mmol, 1 g | Cl.Cl.NC=1C=C(C=C(C1)N)C(=O)C1=C(C=C(C=C1)O)O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 30 mL | O | H2O
product | (3,5-Diaminophenyl)(2,4-dihydroxyphenyl)methanone | NC=1C=C(C=C(C1)N)C(=O)C1=C(C=C(C=C1)O)O | C13H12N2O3
